US04168379
12.1 g (50 millimoles) of 4-benzyl-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-ol are converted to the sodium salt as described in Example I (a) and are reacted with 9.2 g (75 millimoles) of N-(3-chloropropyl)-N,N-dimethylamine. Working up as described in Example I gives 16.0 g of 4-benzyl-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-yl 3-dimethylaminopropyl ether bishydrochloride, which is recrystallized from isopropanol-ethanol; melting point 202°-204° C. % N: calculated 7.0, found 7.1.

reactant | 4-benzyl-6-methyl-1,3-dihydrofuro[3,4-c]pyridin-7-ol | 50 millimoles, 12.1 g | C(C1=CC=CC=C1)C1=NC(=C(C2=C1COC2)O)C | C15H15NO2
reactant | sodium | [Na] | Na
reactant | N-(3-chloropropyl)-N,N-dimethylamine | 75 millimoles, 9.2 g | ClCCCN(C)C | C5H12ClN
product | 4-benzyl-6-methyl-1,3-dihydro-furo[3,4-c]pyridin-7-yl 3-dimethylaminopropyl ether bishydrochloride | 16.0 g | Cl.Cl.CN(CCCOC=1C2=C(C(=NC1C)CC1=CC=CC=C1)COC2)C | InChI=1S/C20H26N2O2.2ClH/c1-15-20(24-11-7-10-22(2)3)18-14-23-13-17(18)19(21-15)12-16-8-5-4-6-9-16;;/h4-6,8-9H,7,10-14H2,1-3H3;2*1H
